* Current Limit DC Characterization — steady-state at each load point
* Template: iload_val is replaced by the run script
.title ILIM_DC_CHAR

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po

.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

* Supplies — BVDD ramps 0→7V in 10us then holds
Vbvdd bvdd 0 PWL(0 0 10u 7 100 7)
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 PWL(0 0 0.5u 0 1u 2.2)
Ven_ret en_ret 0 0

* Load: stepped at t=20ms from 0 to ILOAD_PLACEHOLDER
Iload pvdd 0 PWL(0 0 19.999m 0 20m ILOAD_PLACEHOLDER 100 ILOAD_PLACEHOLDER)

* DUT
XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag startup_done pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
.ic V(pvdd)=0 V(bvdd)=0
.tran 5u 25m uic

.control
run
let pvdd_final = v(pvdd)[length(v(pvdd))-1]
print pvdd_final
quit
.endc
.end
